US06903085B1
Step ii: 2-Pyrimidinyloxyacetic acid
Ethyl 2-pyrimidinyloxyacetate (1.4 g) was dissolved in ethanol (10 ml). Sodium hydroxide (2M aq) was added and the mixture was stirred for 64 h. The solvent was evaporated and the residue was dissolved in water, filtered and the acidified with concentrated hydrochloric acid. The resulting precipitate was collected and dried to give the subtitle compound (0.698 g).

reactant | Ethyl 2-pyrimidinyloxyacetate | 1.4 g | N1=C(N=CC=C1)OCC(=O)OCC | C8H10N2O3
reactant | Sodium hydroxide | 2M | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Pyrimidinyloxyacetic acid | 0.698 g | N1=C(N=CC=C1)OCC(=O)O | C6H6N2O3
